US04072696
2.6 G. 1,2-diamino-4-thiocyanatobenzene in 48 ml. acetone is treated overnight with 8 g. methoxy carbonyl isothiocyanate at room temperature. The solution is concentrated and the residue triturated with methanol and recrystallized from methanol-chloroform, yielding pure 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-thiocyanatobenzene.

reactant | 1,2-diamino-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)N | C7H7N3S
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-thiocyanatobenzene | COC(=O)NC(NC1=C(C=C(C=C1)SC#N)NC(=S)NC(=O)OC)=S | C13H13N5O4S3
